US04057641
d. 2-(3-Acetyl-4-hydroxyphenyl)propan-1-ol
2-(3-Acetyl-4-hydroxyphenyl)propyl acetate (20.0g; 0.0847 mol) and sodium bicarbonate (25.4g; 0.31 mol) were dissolved in ethanol (200 ml) and water (150 ml), and the mixture was refluxed for 20 hours. Ethanol was removed in vacuo and the residue was extracted with ether (3 × 150 ml). The combined ether extracts were washed with water, saturated sodium bicarbonate solution, brine, and then dried over magnesium sulphate. The product, after removing solvent, was chromatographed on silica gel using ether as eluent to give a pale brown oil (15.0g; 72% yield).

reactant | 2-(3-Acetyl-4-hydroxyphenyl)propyl acetate | 0.0847 mol, 20.0g | C(C)(=O)OCC(C)C1=CC(=C(C=C1)O)C(C)=O | C13H16O4
reactant | sodium bicarbonate | 0.31 mol, 25.4g | C([O-])(O)=O.[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 2-(3-Acetyl-4-hydroxyphenyl)propan-1-ol | 72% yield | C(C)(=O)C=1C=C(C=CC1O)C(CO)C | C11H14O3
